data/oMe_Silver.jsonl
{"reaction_id": "NG-005_1-c1ccccc1_2-c1ccc(F)cc1_3-c1ccccc1","name": "Acid-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccccc1)C=O","C(c1ccc(F)cc1)(c1ccccc1)=O"],"products_smiles": ["C(c1ccc(F)cc1)(c1ccccc1)=C(C=O)c1ccccc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)=C(O)c1ccc(F)cc1","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity and facilitating enol formation via resonance-stabilized cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(c1ccccc1)=[OH+]","rationale": "Protonation of the second carbonyl increases its electrophilicity, making it more susceptible to nucleophilic attack by the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(F)cc1)(c1ccccc1)(O)C(C=[OH+])c1ccccc1","rationale": "The nucleophilic α-carbon of the enol attacks the protonated carbonyl, favored by strong electrophile activation and conjugation potential."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(F)cc1)(c1ccccc1)(O)C(C=O)c1ccccc1","rationale": "Proton transfer restores the neutral β-hydroxyketone, stabilizing the intermediate through hydrogen bonding and resonance."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(c1ccccc1)([OH2+])C(C=O)c1ccccc1","rationale": "Protonation of the β-hydroxy group converts it into a better leaving group (water) under acidic conditions."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(F)cc1)(c1ccccc1)=C(C=O)c1ccccc1","rationale": "Loss of water forms a conjugated α,β-unsaturated carbonyl, thermodynamically favored due to extended π-system stabilization."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, while the other is protonated to enhance electrophilicity. The enol attacks the activated carbonyl, forming a β-hydroxyketone intermediate, which then undergoes acid-catalyzed dehydration to yield the α,β-unsaturated carbonyl product."}
{"reaction_id": "NG-007_1-CC(=O)C_2-CC_3-CC(=O)OCC","name": "Appel reaction","level": "medium","reactants_smiles": ["C(CC(=O)C)(CC)(CC(=O)OCC)O"],"products_smiles": ["C(CC(=O)C)(CC)(CC(=O)OCC)Br"],"conditions": "Ph3P, CBr4","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Br.[C-](Br)(Br)Br","rationale": "Triphenylphosphine, a strong nucleophile due to its lone pair on phosphorus, attacks electrophilic CBr4, displacing bromide and forming a bromophosphonium species stabilized by the electron-withdrawing phenyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(CC(=O)C)(CC)(CC(=O)OCC).BrC(Br)(Br)","rationale": "Bromide, a good base under these conditions, abstracts the acidic proton from the alcohol, driven by the formation of a resonance-stabilized alkoxide and the high acidity of the proton in polarizable medium."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[P+](OC(CC(=O)C)(CC)(CC(=O)OCC))(c1ccccc1)(c1ccccc1)c1ccccc1.[Br-]","rationale": "The alkoxide, a strong nucleophile, attacks the electrophilic phosphorus center of the bromophosphonium ion, favored by phosphorus's ability to expand its coordination number and the poor leaving group ability of bromide from carbon."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC(=O)C)(CC)(CC(=O)OCC)Br.O=P(c1ccccc1)(c1ccccc1)c1ccccc1","rationale": "Bromide attacks the electrophilic carbon in the oxyphosphonium intermediate via SN2, favored by the excellent leaving group ability of triphenylphosphine oxide and the strong nucleophilicity of bromide."}],"description": "In the Appel reaction, triphenylphosphine reacts with carbon tetrabromide to generate an electrophilic bromophosphonium species and bromide. The alcohol is deprotonated, then the alkoxide attacks the phosphonium center, forming an oxyphosphonium intermediate. Bromide then displaces the oxygen, yielding the alkyl bromide and triphenylphosphine oxide."}
